US04394506
2-(Benzyloxycarbonyl)-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide
To 1.75 g of 2-(4,6-dimethylpyrimidin-2-ylaminocarbonylsulfamoyl) benzoic acid was added 0.51 g of triethylamine in 10 ml tetrahydrofuran and 0.88 g of benzyl bromide in 10 ml of tetrahydrofuran. The mixture was heated to reflux for 1.5 hours, filtered and the tetrahydrofuran evaporated in-vacuo. The residue was extracted with hot 1-chlorobutane, diluted with ethyl acetate, washed with water and saturated aqueous sodium bicarbonate. The organic phase was dried over magnesium sulfate, filtered and the solvents evaporated in-vacuo. The resultant residue was crystallized from 1-chlorobutane to a melting point of 157°. This product showed absorption peaks in the infrared region at 1720, 1600, 1560 cm-1 consistent for the desired ester and absorption by nuclear magnetic resonance at 2.45δ, singlet, for CH3 ; 5.3δ singlet, CH2 on benzyl; 6.65δ singlet CH of pyrimidine and aryl peaks at 7-8δ.

reactant | 2-(4,6-dimethylpyrimidin-2-ylaminocarbonylsulfamoyl) benzoic acid | 1.75 g | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C14H14N4O5S
reactant | triethylamine | 0.51 g | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 0.88 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(Benzyloxycarbonyl)-N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]benzenesulfonamide | C(C1=CC=CC=C1)OC(=O)C1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)C)C | C21H20N4O5S
